US06281356B1
1-Methyl-3-[4-(1-methyl-6-pyrrolidin-1-yl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-furan-3-yl]-1H-indole-6-carbonitrile (0.16 g, 0.36 mmol) was dissolved in dry DMF (5 mL, dried over 3A° molecular sieves) in a 50 mL round bottom flask. To this was added methanol (0.1 mL) and 1,1,1,3,3,3 hexamethyldisilazane (0.9 mL). The purple solution was stirred at room temperature overnight. Methanol (0.03 mL) and 1,1,1,3,3,3 hexamethyldisilazane (0.27 mL) were added and stirred for 3 h. The mixture was diluted with ethyl acetate (50 mL) and washed with brine. The aqueous layer was back extracted with ethyl acetate (2×50 mL). The combined organic extracts were diluted with an equal volume of hexanes, dried (MgSO4), and passed over a pad of silica gel. The silica gel was washed a with 1:1 ethyl acetate/hexanes (150 mL), and the filtrate was concentrated. Chromatography of the residue over silica gel using 25%-40% EtOAc/hexanes gave 1-methyl-3-[4-(1-methyl-6-pyrrolidin-1-yl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrole-3-yl]-1H-indole-6-carbonitrile (71 mg, 44%) as a purple solid.

reactant | 1-Methyl-3-[4-(1-methyl-6-pyrrolidin-1-yl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-furan-3-yl]-1H-indole-6-carbonitrile | 0.36 mmol, 0.16 g | CN1C=C(C2=CC=C(C=C12)C#N)C=1C(OC(C1C1=CN(C2=CC(=CC=C12)N1CCCC1)C)=O)=O | C27H22N4O3
reactant | methanol | 0.1 mL | CO | CH4O
reactant | 1,1,1,3,3,3 hexamethyldisilazane | 0.9 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | Methanol | 0.03 mL | CO | CH4O
reactant | 1,1,1,3,3,3 hexamethyldisilazane | 0.27 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1-methyl-3-[4-(1-methyl-6-pyrrolidin-1-yl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrole-3-yl]-1H-indole-6-carbonitrile | 71 mg, 44% | CN1C=C(C2=CC=C(C=C12)C#N)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)N1CCCC1)C)=O)=O | C27H23N5O2
